US09302991B2
<Step-1>: (S,E)-N-(2-fluoro-5-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide (single enantiomer)
A mixture of 2-fluoro-5-(trifluoromethyl)benzaldehyde (1.00 g, 5.21 mmol), (S)-2-methylpropane-2-sulfinamide (631 mg, 5.21 mmol), and copper sulfate (1.66 g, 10.4 mmol) in dichloromethane is stirred at room temperature for 12 hours. Additional copper sulfate (1.66 g, 10.4 mmol) is added, and the mixture is stirred at room temperature for 5 hours. Then, the mixture is filtered through a pad of Celite, and the filtrate is concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/EtOAc (10:1) to give 314 mg (20% yield) of the title compound as colorless oil.

reactant | 2-fluoro-5-(trifluoromethyl)benzaldehyde | 5.21 mmol, 1.00 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | (S)-2-methylpropane-2-sulfinamide | 5.21 mmol, 631 mg | CC(C)(C)[S@](=O)N | C4H11NOS
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | copper sulfate | 10.4 mmol, 1.66 g | S(=O)(=O)([O-])[O-].[Cu+2]
catalyst | copper sulfate | 10.4 mmol, 1.66 g | S(=O)(=O)([O-])[O-].[Cu+2]
product | (S,E)-N-(2-fluoro-5-(trifluoromethyl)benzylidene)-2-methylpropane-2-sulfinamide | 314 mg, 20% yield | FC1=C(\C=N\[S@@](=O)C(C)(C)C)C=C(C=C1)C(F)(F)F | C12H13F4NOS
